US08124299B2
1-(trimethylsilylethynyl)-4-(4-n-butylphenylethynyl)benzene.
4-iodophenytrimethyl silylacetylene (5.0 g, 16.6 mmol), 4-n-butylphenylacetylene (2.67 g, 16.0 mmol), CuI (32 mg, 0.16 mmol), bis(triphenylphosphine)palladium(II) dichloride (0.35 g, 0.48 mmol), triethylamine (50 mL) and THF (50 mL) were added together and stirred at ambient temperature under N2 for 18 h. The reaction mixture was filtered to remove solids and concentrated to dryness, redissolved in CHCl3, washed with water (2×), brine, dried with MgSO4, filtered, concentrated and the solid recrystallized from hexanes to give 2.10 g (40%) product. The crude product could also be purified by washing with MeOH. This gave 1.94 g additional product for a total yield of 79%. 1H NMR (CDCl3) δ: 7.46 (m, 6H), 7.20 (d, J=8.1 Hz, 2H); 2.63 (t, J=7.6 Hz, 2H); 1.62 (m, 2H); 1.38 (m, 2H); 0.95 (t, J=7.2 Hz, 3H); 0.28 (s, 9H). 13C{1H} NMR (CDCl3): 143.7, 131.9, 131.6, 131.3, 128.5, 123.6, 122.7, 120.1, 104.7, 96.1, 91.6, 88.4, 35.6, 33.4, 22.3, 14.0, −0.1 ppm.

reactant | 4-iodophenytrimethyl silylacetylene | 16.6 mmol, 5.0 g | IC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13ISi
reactant | 4-n-butylphenylacetylene | 16.0 mmol, 2.67 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | triethylamine | 50 mL | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.16 mmol, 32 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.48 mmol, 0.35 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(trimethylsilylethynyl)-4-(4-n-butylphenylethynyl)benzene | 2.10 g, 40% | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC | C23H26Si
